US09168248B2
5-Chloro-1′-ethanethioyl-3,4-dihydrospiro[chromene-2,4′-piperidine] To a suspension of 5-chloro-3,4-dihydrospiro[chromene-2,4′-piperidine] HCl salt (2 g, 7.3 mmol) and Et3N (3 mL, 21.5 mmol) in CH2Cl2 (25 mL) was added acetyl chloride (0.7 mL, 9.8 mmol). After stirring for 1 h, the mixture was diluted with water and extracted with CH2Cl2. The CH2Cl2 extract was washed with diluted brine, dried (MgSO4) and concentrated. The resulting residue was purified by Combi-Flash™ (40 g, 50-100% EtOAc in hexanes for 20 min, 40 mL/min, 18 mL/fraction) to give 1′-acetyl-5-chloro-3,4-dihydrospiro[chromene-2,4′-piperidine] as an oil, which solidified on standing.

reactant | 5-Chloro-1′-ethanethioyl-3,4-dihydrospiro[chromene-2,4′-piperidine] | ClC1=C2CCC3(CCN(CC3)C(C)=S)OC2=CC=C1 | C15H18ClNOS
reactant | 5-chloro-3,4-dihydrospiro[chromene-2,4′-piperidine] HCl salt | 7.3 mmol, 2 g | Cl.ClC1=C2CCC3(CCNCC3)OC2=CC=C1
reactant | Et3N | 21.5 mmol, 3 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 9.8 mmol, 0.7 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1′-acetyl-5-chloro-3,4-dihydrospiro[chromene-2,4′-piperidine] | C(C)(=O)N1CCC2(CC1)OC1=CC=CC(=C1CC2)Cl | C15H18ClNO2
